US08383633B2
In the next step, a mixture of N-(4-(4-(1,2,4-thiadiazol-5-ylamino)-6-chloropyrimidin-2-ylthio)phenyl)-2-chlorobenzamide (188 mg, 0.42 mmol), azetidine (67.5 mg, 1.18 mmol), DiPEA (0.17 mL, 1.0 mmol) in 1,4-dioxane (10 mL) was heated to 130° C. for 20 minutes. The crude product (940 mg) was purified by preparative HPLC to yield 27 mg of N-(4-(4-(1,2,4-Thiadiazol-5-ylamino)-6-(azetidin-1-yl)pyrimidin-2-ylthio)phenyl)-2-chlorobenzamide with 99+% purity (HPLC method B, Rf=7.183 minutes).

reactant | N-(4-(4-(1,2,4-thiadiazol-5-ylamino)-6-chloropyrimidin-2-ylthio)phenyl)-2-chlorobenzamide | 0.42 mmol, 188 mg | S1N=CN=C1NC1=NC(=NC(=C1)Cl)SC1=CC=C(C=C1)NC(C1=C(C=CC=C1)Cl)=O | C19H12Cl2N6OS2
reactant | azetidine | 1.18 mmol, 67.5 mg | N1CCC1 | C3H7N
reactant | DiPEA | 1.0 mmol, 0.17 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | N-(4-(4-(1,2,4-Thiadiazol-5-ylamino)-6-(azetidin-1-yl)pyrimidin-2-ylthio)phenyl)-2-chlorobenzamide | 27 mg | S1N=CN=C1NC1=NC(=NC(=C1)N1CCC1)SC1=CC=C(C=C1)NC(C1=C(C=CC=C1)Cl)=O | C22H18ClN7OS2
